US08470859B2
5-chloro-1-(3,5-difluoro-2-methoxybenzyl)-2-imino-1,2-dihydropyridine-3-carboxamide hydrobromide
According to the method of Example 172, 2-amino-5-chloronicotinamide was reacted with 1-(bromomethyl)-3,5-difluoro-2-methoxybenzene to give the title compound.

reactant | 2-amino-5-chloronicotinamide | NC1=C(C(=O)N)C=C(C=N1)Cl | C6H6ClN3O
reactant | 1-(bromomethyl)-3,5-difluoro-2-methoxybenzene | BrCC1=C(C(=CC(=C1)F)F)OC | C8H7BrF2O
product | 5-chloro-1-(3,5-difluoro-2-methoxybenzyl)-2-imino-1,2-dihydropyridine-3-carboxamide hydrobromide | Br.ClC=1C=C(C(N(C1)CC1=C(C(=CC(=C1)F)F)OC)=N)C(=O)N | InChI=1S/C14H12ClF2N3O2.BrH/c1-22-12-7(2-9(16)4-11(12)17)5-20-6-8(15)3-10(13(20)18)14(19)21;/h2-4,6,18H,5H2,1H3,(H2,19,21);1H
